US08242153B2
c) (S)-2-Amino-4-phenoxy-butan-1-ol
To a suspension of lithium aluminum hydride (282 mg) in tetrahydrofuran (4 ml) was added a solution of (S)-2-amino-4-phenoxy-butyric acid methyl ester (778 mg) in tetrahydrofuran (3 ml) and the mixture was stirred for 2 hours at 50° C. Sodium hydroxide solution (4N) was added until gas evolution ceased and the suspension was filtered through Celite. The solvent was evaporated and the residue was purified by chromatography (column: Isolute® Flash-NH2 from Separtis; eluent: ethyl acetate/MeOH=98:2) to yield a colourless oil, (180 mg, 27%); MS (ISP): 182.3 ((M+H)+).

reactant | lithium aluminum hydride | 282 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | (S)-2-amino-4-phenoxy-butyric acid methyl ester | 778 mg | COC([C@H](CCOC1=CC=CC=C1)N)=O | C11H15NO3
reactant | Sodium hydroxide | 4N | [OH-].[Na+]
solvent | tetrahydrofuran | 4 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
product | (S)-2-Amino-4-phenoxy-butan-1-ol | N[C@H](CO)CCOC1=CC=CC=C1 | C10H15NO2
